US07115640B2
B. Preparation of 2-methylthio-5-(2,2,2-trifluoroacetamido)benzothiazole
To a stirred solution of 5-amino-2-methylthiobenzothiazole (3.93 g, 20 mmol) in anhydrous MeCN were added dropwise at 0° C. TFAA (4.0 mL, 28 mmol) and TEA (5 mL, 36 mmol) under N2. The mixture was stirred at room temperature for 3 h. The solvent was removed in vacuo, and the residue was taken up in EtOAc, washed with water and brine, dried with Na2SO4, and concentrated in vacuo. The crude material was purified by chromatography on silica gel, eluting with EtOAc-Hex (0:100 to 20:80) to afford the title compound (3.9 g, 67%) as a pale white solid. 1H-NMR (CDCl3): δ 8.10 (1H, d), 7.98 (1H, br s), 7.75 (1H, d), 7.53–7.51 (1H, dd), 2.80 (3H, s).

reactant | 5-amino-2-methylthiobenzothiazole | 20 mmol, 3.93 g | NC=1C=CC2=C(N=C(S2)SC)C1 | C8H8N2S2
reactant | TFAA | 28 mmol, 4.0 mL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | MeCN | CC#N | C2H3N
product | 2-methylthio-5-(2,2,2-trifluoroacetamido)benzothiazole | 3.9 g, 67% | CSC=1SC2=C(N1)C=C(C=C2)NC(C(F)(F)F)=O | C10H7F3N2OS2
